US07691843B2
To a stirred solution of [benzhydryl-(2-hydroxybutyl)amino]acetic acid tert-butyl ester (7.4 g, 20 mmol, 1 eq.) in dry CHCl3 (50 mL) at 0° C. was added SOCl2 (3.13 mL, 43 mmol, 2.15 eq.) dropwise. After 30 min, the solvent was removed in vacuo to afford [benzhydryl-(2-chlorobutyl)amino]acetic acid tert-butyl ester (99% crude yield), which was used without further purification. ESMS: 388.3 [M+H].

reactant | [benzhydryl-(2-hydroxybutyl)amino]acetic acid tert-butyl ester | 20 mmol, 7.4 g, 1 eq. | C(C)(C)(C)OC(CN(CC(CC)O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H31NO3
reactant | SOCl2 | 43 mmol, 3.13 mL, 2.15 eq. | O=S(Cl)Cl | Cl2OS
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | [benzhydryl-(2-chlorobutyl)amino]acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(CC(CC)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H30ClNO2
